US07772253B2
6-Methylamino-N-piperidin-4-yl-nicotinamide
The above prepared 4-{[6-(tert-butoxycarbonyl-methyl-amino)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (0.495 g, 1.14 mmol) was dissolved in 14 ml of CH2Cl2 and treated with 2.8 ml of trifluoroacetic acid. After stirring for 3 h at ambient temperature, TLC indicated the absence of starting material. Evaporation of all volatiles left 0.704 g of the title compound as trifluoroacetate as light brown amorphous solid.

reactant | 4-{[6-(tert-butoxycarbonyl-methyl-amino)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.14 mmol, 0.495 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C=NC(=CC1)N(C)C(=O)OC(C)(C)C | C22H34N4O5
reactant | trifluoroacetic acid | 2.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
product | 6-Methylamino-N-piperidin-4-yl-nicotinamide | CNC1=NC=C(C(=O)NC2CCNCC2)C=C1 | C12H18N4O
